US07678794B2
Synthesis of 1,3-bis-benzyloxy-4-bromo-2-trifluoromethyl-benzene
Add N-bromosuccinimide (4.67 g, 26.23 mmol) to a solution of 1,3-bis-benzyloxy-2-trifluoromethyl-benzene (9.40 g, 26.2 mmol) in dimethylformamide (100 mL) and stir. After 18 hours add water and extract with diethyl ether. Combine organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to yield the title compound as an orange oil (11.20 g, 98%): 1H NMR (CD3CN) δ 4.97 (2, 2H), 5.18 (s, 2H), 6.99 (d, 1H), 7.33-7.55 (m, 10H), 7.79 (d, 1H).

reactant | N-bromosuccinimide | 26.23 mmol, 4.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,3-bis-benzyloxy-2-trifluoromethyl-benzene | 26.2 mmol, 9.40 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OCC1=CC=CC=C1)C(F)(F)F | C21H17F3O2
reactant | water | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1,3-bis-benzyloxy-4-bromo-2-trifluoromethyl-benzene | 11.20 g, 98% | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)Br)OCC1=CC=CC=C1)C(F)(F)F | C21H16BrF3O2
